US04511568
5.53 ml (50 mM) of ethyl bromoacetate were added dropwise to a solution of 20.5 ml (250 mM) of n-propylamine in 50 ml of CH2Cl2 at 0°. The reaction mixture was then warmed to room temperature and stirred for 1 hour, then concentrated to remove volatiles through a short path distillation head at atmospheric pressure. The residual liquid was taken up in ether and washed with saturated aqueous NaHCO3. The layers were separated and the ether layer was washed once with brine then dried over anhydrous MgSO4. The ether was removed to yield 7.16 g of ethyl N-(n-propyl)-glycinate as a pale yellow liquid.

reactant | ethyl bromoacetate | 50 mM, 5.53 ml | BrCC(=O)OCC | C4H7BrO2
reactant | n-propylamine | 250 mM, 20.5 ml | C(CC)N | C3H9N
solvent | CH2Cl2 | 50 ml | C(Cl)Cl | CH2Cl2
product | ethyl N-(n-propyl)-glycinate | 7.16 g | C(CC)NCC(=O)OCC | C7H15NO2
